US08133886B2
6-(6-Methylamino-pyrimidin-4-ylmethyl)-naphthalene-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide
A solution of 40 mg (0.087 mMol) 6-(6-chloro-pyrimidin-4-ylmethyl)-naphthalene-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide and 750 μl methylamine (2 M in THF; 1.5 mMol) in 1.5 ml THF is stirred in a sealed vessel for 20 h at rt and 3.5 h at 65° C. Concentration and chromatography (Combi Flash; EtOAc→EtOAc/EtOH 9:1) gives the title compound: MS: [M+1]+=455; TLC(EtOAc/EtOH 9:1): Rf=0.27.

reactant | 6-(6-chloro-pyrimidin-4-ylmethyl)-naphthalene-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide | 0.087 mMol, 40 mg | FC1=C(C=C(C=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)CC1=NC=NC(=C1)Cl)C(F)(F)F | C23H14ClF4N3O
reactant | methylamine | 1.5 mMol, 2 M, 750 μl | CN | CH5N
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 6-(6-Methylamino-pyrimidin-4-ylmethyl)-naphthalene-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide | FC1=C(C=C(C=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)CC1=NC=NC(=C1)NC)C(F)(F)F | C24H18F4N4O
